US07163940B2
To a solution of 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-pyrimidinamine (1.18 g, 2.26 mmol) in tetrahydrofuran (20 mL) at 0° C. was added hydrochloric acid (8 mL, 4 N aqueous, 32 mmol). The reaction mixture was allowed to warm to room temperature and was stirred for 48 hours. The solution was diluted and extracted with ethyl acetate. The organic layer was washed with water and brine and dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (2:1 hexanes:ethyl acetate) provided [6-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-(cyclopentylamino)-4-pyrimidinyl]methanol (815 mg, 82%) as a solid. Rf 0.21 (2:1 hexanes:ethyl acetate); 1H NMR (CDCl3) δ 8.31 (d, 1H), 7.60 (m, 2H), 7.22 (m, 1H), 7.10 (m, 2H), 7.01 (d, 1H), 6.23 (s, 1H), 5.37 (d, 1H), 4.33 (m, 3H), 3.95 (br, 1H), 2.03 (m, 2H), 1.62 (m, 6H); 19F NMR (CDCl3) δ −112.70; MS m/z 438 (M+1).

reactant | 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-pyrimidinamine | 2.26 mmol, 1.18 g | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC(=C2)COC2OCCCC2)NC2CCCC2)C2=CC=C(C=C2)F | C28H29ClFN5O2
reactant | hydrochloric acid | 32 mmol, 4 N, 8 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [6-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-(cyclopentylamino)-4-pyrimidinyl]methanol | 815 mg, 82% | ClC1=CC=CC=2N1N=C(C2C2=CC(=NC(=N2)NC2CCCC2)CO)C2=CC=C(C=C2)F | C23H21ClFN5O
